US07375104B2
a) 4-(2-aminophenyl)heptan-4-ol
90.0 mL (180.00 mmol) of propylmagnesium chloride (2 M in ether) is added dropwise within 30 minutes to a solution of 7.00 mL (54.04 mmol) methyl anthranilate in absolute THF (70 mL) at 0° C. The mixture is stirred for 1 hour at RT and then combined with 100 mL of 3 M aqueous ammonium chloride solution and EtOAc. The phases are separated and the aqueous phase is exhaustively extracted with EtOAc. The combined organic phases are washed with aqueous KHCO3 and saturated aqueous NaCl and dried with sodium sulfate. The crude product is used in the next reaction step without any further purification. Yield: 6.70 g (60%).

reactant | propylmagnesium chloride | 180.00 mmol, 2 M, 90.0 mL | C(CC)[Mg]Cl
reactant | methyl anthranilate | 54.04 mmol, 7.00 mL | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | ammonium chloride | 3 M, 100 mL | [Cl-].[NH4+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-(2-aminophenyl)heptan-4-ol | NC1=C(C=CC=C1)C(CCC)(CCC)O | C13H21NO
